US06756359B2
To a solution of 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)pentanoic acid methyl ester (1 eq) in ethanol was added sodium borohydride (4 eq) at room temperature. The reaction mixture was heated in a 50° C. oil bath for 60 minutes and then quenched by addition of H2O. Once the reaction solvent was removed in vacuo, a solution of the residue in dichloromethane was washed with NaCl(sat), dried over sodium sulfate, filtered and concentrated to give 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)-pentan-1-ol (68%). MH+(246).

reactant | 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)pentanoic acid methyl ester | 1 eq | COC(CCC(C)(N1C=NC(=C1)C=1C=NC=CC1)C)=O | C15H19N3O2
reactant | sodium borohydride | 4 eq | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-Methyl-4-(4-pyridin-3-yl-imidazol-1-yl)-pentan-1-ol | 68% | CC(CCCO)(C)N1C=NC(=C1)C=1C=NC=CC1 | C14H19N3O
